US07943622B2
Step 1. Synthesis of 1-(1-acetylpiperidin-4-yl) 4-tert-butyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate
Acetic anhydride (0.0207 mL, 0.219 mmol) was added to a solution of 4-tert-butyl 1-piperidin-4-yl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate (83.7 mg, 0.199 mmol) in THF (4 mL). After 16 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (10 to 90% MeCN/0.1% TFA in H2O/0.1% TFA gradient). This gave 112.5 mg (98%) of the TFA salt of the desired product as a white solid. LC-MS: RT=6.40 min, [M+H]+=463.2.

reactant | Acetic anhydride | 0.219 mmol, 0.0207 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-tert-butyl 1-piperidin-4-yl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate | 0.199 mmol, 83.7 mg | N1=CC(=CC=C1)OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC1CCNCC1 | C21H32N4O5
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-(1-acetylpiperidin-4-yl) 4-tert-butyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate | N1=CC(=CC=C1)OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC1CCN(CC1)C(C)=O | C23H34N4O6
